US06169091A
5-Methyl4-(4-phenoxyanilino)thieno[2,3-d]pyrimidine hydrochloride
4-Chloro-5-methylthieno[2,3-d]pyrimidine (0.185 g, 1.00 mmol) and 4-phenoxyaniline (0.210 g, 1.1 mmol) were reacted in 2-propanol (6 ml) for 17 hours according to Procedure A. The product was obtained as a pale grey solid (0.297 g, 80%), m.p. 218-221° C.; (Found: C, 61.61; H, 4.33, N, 11.25. C19H15N3OS.HCl requires: C, 61.70; H, 4.36; N, 11.36%); δH [2H6]-DMSO 8.60 (1H, br s, NH), 8.49 (1H, s, 2-H), 7.68 (2H, d, J 9, 2′-H, 6′-H), 7.33-7.48 (3H, m, 6-H, 3″-H, 5″-H), 7.17 (1H, t, J 9, 4″-H), 7.00-7.10 (4H, m, 3′-H, 5′-H, 2″-H, 6″-H), 2.75 (3H, s, 5-CH3); m/z 333 (M+).

reactant | 4-Chloro-5-methylthieno[2,3-d]pyrimidine | 1.00 mmol, 0.185 g | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
reactant | 4-phenoxyaniline | 1.1 mmol, 0.210 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | 2-propanol | 6 ml | CC(C)O | C3H8O
product | 5-Methyl4-(4-phenoxyanilino)thieno[2,3-d]pyrimidine hydrochloride | 0.297 g, 80% | Cl.CC1=CSC=2N=CN=C(C21)NC2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C19H15N3OS.ClH/c1-13-11-24-19-17(13)18(20-12-21-19)22-14-7-9-16(10-8-14)23-15-5-3-2-4-6-15;/h2-12H,1H3,(H,20,21,22);1H
